US09422281B2
Tetrahydro-2H-pyran-4-yl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate was prepared from tetrahydro-2H-pyran-4-ol and (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethan-1-one according to the procedure outlined above for 3,3-difluorocyclobutyl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate. MS (ESI, pos. ion) m/z 397, 399 [M+1]+.

reactant | tetrahydro-2H-pyran-4-ol | O1CCC(CC1)O | C5H10O2
reactant | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethan-1-one | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C11H13BrN2O
reactant | 3,3-difluorocyclobutyl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OC1CC(C1)(F)F)C | C16H17BrF2N2O3
product | Tetrahydro-2H-pyran-4-yl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OC1CCOCC1)C | C17H21BrN2O4
